US08791134B2
Tert-butyl 2-{N-[1,3-bis(acetyloxy)propan-2-yl]acetamido}acetate.
Acetyl chloride (0.357 ml, 5.0 mmol) was added dropwise to a stirred solution of tert-butyl 2-{[1,3-bis(acetyloxy)propan-2-yl]amino}acetate (1.22 g, 4.2 mmol) and triethylamine (0.696 ml, 5.0 mmol). After 2 hours the reaction was quenched by the addition of water. The organic phase was separated and washed with further aliquots of water before being dried over MgSO4, filtered and concentrated in vacuo. The title compound was purified by silica column chromatography eluting with 25% EtOAc:Hept to yield the title compound (0.7 g, 50%). 1H NMR (250 MHz, CHLOROFORM-d) δ 4.04-4.44 (5H, m), 3.98 (1H, s), 3.88 (1H, s), 2.08 (3H, s), 2.05 (6H, s), 1.47 (9H, s).

reactant | Acetyl chloride | 5.0 mmol, 0.357 ml | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl 2-{[1,3-bis(acetyloxy)propan-2-yl]amino}acetate | 4.2 mmol, 1.22 g | C(C)(=O)OCC(COC(C)=O)NCC(=O)OC(C)(C)C | C13H23NO6
reactant | triethylamine | 5.0 mmol, 0.696 ml | C(C)N(CC)CC | C6H15N
product | Tert-butyl 2-{N-[1,3-bis(acetyloxy)propan-2-yl]acetamido}acetate | 0.7 g, 50% | C(C)(=O)OCC(COC(C)=O)N(C(C)=O)CC(=O)OC(C)(C)C | C15H25NO7
